US08114872B2
5-Cyclopropyl-2-fluoro-3-iodo-pyridine
Cool a solution of 5-cyclopropyl-2-fluoro-pyridine (1.3 g, 9.5 mmol) in THF (20 mL) to −75° C. in a dry ice-acetone bath under nitrogen. Add lithium diisopropylamide (2 M in THF, 6 mL, 12 mmol) during a period of 30 min. Stir the mixture for another 3 h before adding iodine (2.9 g, 11.4 mmol, dissolved in 50 mL of THF). Keep stirring for 2 more hours before adding water (100 mL) to the mixture. Then allow to warm to RT during 1 h under stirring. Treat the mixture with a saturated sodium thiosulfate solution (50 mL). Extract the solution with ether. Concentrate the solution in vacuo. Purify by column chromatography (hexane→20% ethyl acetate in hexane) to afford the title compound as a yellow oil (1.7 g, 68%). 1H NMR (400 MHz-CDCl3) δ 7.99 (d, J=3 Hz, 1H), 7.39 (td, J=3, 5 Hz, 1H), 6.79 (dd, J=3, 8 Hz, 1H), 0.96-1.02 (m, 2H), 0.63-0.69 (m, 2H).

reactant | 5-cyclopropyl-2-fluoro-pyridine | 9.5 mmol, 1.3 g | C1(CC1)C=1C=CC(=NC1)F | C8H8FN
reactant | lithium diisopropylamide | 12 mmol, 2 M, 6 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | iodine | 11.4 mmol, 50 mL, 2.9 g | II | I2
reactant | sodium thiosulfate | 50 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | 5-Cyclopropyl-2-fluoro-3-iodo-pyridine | 1.7 g, 68% | C1(CC1)C=1C=C(C(=NC1)F)I | C8H7FIN
